US08497263B2
The 0.1M methanol solution of 1-(4-formylphenyl)-3-hydroxy-4-(4-methoxybenzoyl)-5-phenyl-1,5-dihydropyrrol-2-one (1 mL, 0.1 mmol) was concentrated under reduced pressure. Toluene (1 mL), ethylene glycol (0.033 mL, 0.6 mmol) and p-toluenesulfonic acid monohydrate (3.8 mg, 0.02 mmol) was added to the residue. The mixture was heated under azeotropic dehydration for 3 hr. Water (100 mL) was added to the mixture, which was then extracted with ethyl acetate (100 mL). The organic layer was washed with brine (100 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the residue was added ethyl acetate, and the precipitate was collected by filtration and dried to give 1-(1,3-dioxolan-2-yl)-3-hydroxy-4-(4-methoxybenzoyl)-5-phenyl-1,5-dihydro-pyrrol-2-one (3.8 mg, 8%) as pale yellow crystals.

reactant | methanol | 0.1M | CO | CH4O
reactant | 1-(4-formylphenyl)-3-hydroxy-4-(4-methoxybenzoyl)-5-phenyl-1,5-dihydropyrrol-2-one | 0.1 mmol, 1 mL | C(=O)C1=CC=C(C=C1)N1C(C(=C(C1C1=CC=CC=C1)C(C1=CC=C(C=C1)OC)=O)O)=O | C25H19NO5
reactant | ethylene glycol | 0.6 mmol, 0.033 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.02 mmol, 3.8 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Water | 100 mL | O | H2O
solvent | Toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1,3-dioxolan-2-yl)-3-hydroxy-4-(4-methoxybenzoyl)-5-phenyl-1,5-dihydro-pyrrol-2-one | 3.8 mg, 8% | O1C(OCC1)N1C(C(=C(C1C1=CC=CC=C1)C(C1=CC=C(C=C1)OC)=O)O)=O | C21H19NO6
